US08222416B2
To a mixture of toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester (620 mg, 1 mmol), bis(triphenylphosphine)palladium(II) chloride (70.1 mg, 0.1 mmol) and 4-(methanesulfonyl)phenylboronic acid (460 mg, 2.3 mmol) in dioxane (6 mL) was added a 2M sodium carbonate solution (1.5 mL) at 25° C. The mixture was subjected to microwave irradiation for 1.5 h at 100° C. The mixture was cooled to 25° C., extracted with ethyl acetate, washed with brine and dried over anhydrous sodium sulfate. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 30% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridine (510 mg, 85%) as a light yellow solid: LC/MS m/e calcd for C32H35N2S2O6 [M+H]+ 607.77, observed 607.3; 1H NMR (400 MHz, CDCl3) δ ppm 1.47-1.62 (m, 4H), 1.52 (s, 3H), 1.60 (s, 3H), 1.71-1.98 (m, 4H), 2.68 (m, 1H), 3.07 (s, 3H), 3.80 (m, 1H), 4.40 (dd, J=6.3 Hz, 8.3 Hz, 1H), 5.22 (m, 1H), 6.35 (d, J=10.1 Hz, 1H), 6.58 (s, 1H), 7.29 (m, 2H), 7.37, 7.39 (2d, J=8.6 Hz, 2H), 7.49 (t, J=7.5 Hz, 1H), 7.74 (m, 2H), 7.78, 7.79 (2d, J=8.6 Hz, 2H), 7.96, 7.97 (2d, J=2.1 Hz, 1H), 8.50, 8.51 (2d, J=2.1 Hz, 1H).

reactant | toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester | 1 mmol, 620 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C2OC(OC2)(C)C)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C32H34N2O7S2
reactant | 4-(methanesulfonyl)phenylboronic acid | 2.3 mmol, 460 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 2M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.1 mmol, 70.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridine | 510 mg, 85% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C2OC(OC2)(C)C)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C32H34N2O6S2
